US06562828B1
N-Phenyl-7-[1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide
To a solution of 7-[1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline (30 mg) in methylene chloride (0.5 ml) was added phenyl isothiocyanate (0.012 ml), and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:1, 1% triethylamine) and dried under reduced pressure to give the title compound (40 mg).

reactant | 7-[1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline | 30 mg | N1=CC=C(C=C1)N1CCC(CC1)COC1=CC=C2CCNCC2=C1 | C20H25N3O
reactant | phenyl isothiocyanate | 0.012 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | N-Phenyl-7-[1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide | 40 mg | C1(=CC=CC=C1)NC(=S)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=CC=NC=C1 | C27H30N4OS
